Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
CHIEF COMPLAINT: "I need help"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
"Ms. ___ states her depression/anxiety started worsening 
___ months ago, when "troubling situations/memories" arose that 
she could not handle. These "troubling situations/memories" 
include memories domestic violence, sexual trauma that had been 
occurring for years previously (not anymore). Domestic violence/ 
sexual trauma involved the father of her oldest son (son is now 
___ years old); she does not currently live with the father but 
memories of this trauma are now resurfacing. Feels anxious, 
nervous, worried
that even though he lives in ___ he will come to hurt 
her. Also has heard voices when she is alone in the house. 
Endorses nightmares of past traumatic events, and has been told 
by her current partner that she is also hitting herself in her 
sleep.

Over the past 2 months with this worsening depression, she 
additionally endorses decreased appetite, irritability, poor 
concentration, poor energy/motivation, anhedonia, becoming 
increasingly socially isolated and withdrawn. She was also 
having concurrent suicidal thoughts that recently escalated to 
wanting to overdose on her medications (Klonopin and Percocet).  
Ms. ___ states she nearly overdosed on her home medications 
2 weeks ago but her kids saw her with the pills so she did not 
take any.  She states another time in which she almost overdosed 
happened 4 or 5 days ago, where she had her home medications and 
was about to take the pills with intent to overdose but her 
partner took the pills away from her.  Ms. ___ denies SI at 
this moment, but is very concerned that if she goes home she 
will become suicidal again and try to overdose. She is desperate 
for help.

Prior to the past ___ months, Ms. ___ describes her mood as 
being depressed (feels depressed more often than not), was more 
active though. States she has been struggling with depression 
for ___ years, when she was first experiencing domestic
violence/sexual trauma. She tried to get the help she needed 
then but was unable to. She has been seeing a therapist at ___ 
___ Center 6 months ago but then stopped 
because she felt it was not helpful."

On interview today via ___ interpreter, patient continues to 
report low mood, 
hopelessness, anhedonia, anxiety, hypervigilance, and panic 
attacks x2 within past 24 hours. Again reports recent active 
suicidal ideation with plan to overdose on medications, but 
denies history of suicide or self-harm attempts and denies 
current active suicidal ideation. She reports that her sleep and 
nightmares have improved since starting prazosin.

EMERGENCY DEPARTMENT COURSE:
- got Zofran, dicyclomine, methocarbamol for GI symptoms 
(nausea, abdominal pain)
- got hydroxyzine 50mg x1, presumably for sleep
- continued home klonopin and Percocet (had not been taking 
tramadol or Effexor)
- started prazosin 1mg QHS for nightmares
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: Denies receiving any formal psychiatric 
diagnoses, but states she has been suffering with depression for 
___ years
-Hospitalizations: Denies
-Partial hospitalizations: Denies
-Psychiatrist: Has never seen a psychiatrist before
-Therapist: Was seeing a therapist at ___ 
___ 6 months ago, stopped because she felt it was not helpful
-Medication trials: Clonazepam (still taking), venlafaxine (not
taking)
-___ trials: Denies
-Suicide attempts: Denies
-Self-injurious behavior: Denies
-Harm to others: Denies
-Trauma: Domestic violence/sexual trauma by father of eldest son
-Access to weapons: Denies

PAST MEDICAL HISTORY:
PCP: Dr. ___ gastric sleeve surgery (___)
-Chronic abdominal pain, nausea
Denies history of head trauma, seizure.
 
Social History:
SUBSTANCE USE HISTORY:
-Tobacco: Denies
-Alcohol: Denies
-Marijuana: Denies
-Heroin/Opioids: Denies (has Rx)
-Other Drugs: Denies
.
FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies
.
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses: Denies family history of depression, 
anxiety, bipolar disorder, schizophrenia
-Substance Use Disorders: Denies
-Suicide Attempts/Completed Suicides: Denies
 
Physical Exam:
VITAL SIGNS:
T 98.5, HR 91, BP 113/86, RR 18, SpO2 98% on RA
.
EXAM:
General:
-HEENT: normocephalic, atraumatic
-Cardiovascular: RRR, no m/r/g
-Pulmonary: CTAB
-Abdominal: +BS, mildly tender to palpation in all 4 quadrants, 
no guarding
-Extremities: warm and well-perfused, no edema noted
-Skin: no rashes or lesions noted
.
Neurologic:
-Cranial nerves
 --I: not tested
 --II: PERRLA, 2mm
 --III, IV, VI: EOMI without nystagmus
 --V: intact to light touch in all 3 distributions bilaterally
 --VII: symmetric at rest and during facial expressions
 --VIII: hearing intact to finger rub bilaterally
 --IX, X: palate elevataes symmetrically
 --XI: ___ strength in trapezii and SCM bilaterally
 --XII: tongue protrudes midline
-Motor: normal bulk, ___ strength in all 4 extremities, no 
abnormal movements or tremor
-Sensory: not tested
-DTRs: not tested
-___: normal rapid alternating hand movements
-Gait: grossly normal
.
Cognition: 
-Wakefulness/alertness: awake, alert
-Attention: attentive to interview
-Orientation: Oriented to person, time, place, situation
-Memory: ___ registration, ___ recall at 5 mins > ___ recall 
with category clues, long-term grossly intact
-Fund of knowledge: intact to last 3 presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: apple/orange= "nothing in common"; 
watch/ruler="numbers"
-Visuospatial: Not assessed
-Language: fluent ___
.
Mental Status:
-Appearance: woman appearing stated age, well groomed, wearing 
hospital gown, in no apparent distress
-Behavior: Sitting in chair, decreased eye contact, no 
psychomotor agitation or retardation
-Attitude: Cooperative, engaged
-Mood: "okay..."
-Affect: mood-congruent, limited range
-Speech: soft volume, normal rate/tone and amount
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
 --Safety: passive SI currently, recent active SI with plan, 
contracts for safety
 --Delusions: No evidence of paranoia, etc. 
 --Obsessions/Compulsions: No evidence based on current 
encounter
 --Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: limited/fair
-Judgment: fair
 
Pertinent Results:
___ 02:30PM BLOOD Glucose-80 UreaN-11 Creat-0.6 Na-143 
K-4.0 Cl-108 HCO3-24 AnGap-11
___ 02:30PM BLOOD ALT-9 AST-11 AlkPhos-58 TotBili-0.2
___ 04:20AM BLOOD Calcium-9.1 Phos-4.3 Mg-1.9
___ 02:30PM BLOOD Albumin-3.7
___ 04:20AM BLOOD VitB12-197* Folate-9
___ 04:20AM BLOOD TSH-2.5
___ 04:20AM BLOOD 25VitD-14*
 
Brief Hospital Course:
Ms. ___ is a ___ yo ___ F with a PMH of gastric 
sleeve bariatric surgery with associated chronic abdominal pain 
(on percocet), no formal past psychiatric history but 
longstanding depression and likely PTSD who self-presented to 
the ED with worsening depression and suicidal ideation with plan 
to overdose on medications.
.
1. LEGAL & SAFETY:  
On admission, patient signed a conditional voluntary agreement 
(Section 10 & 11) and that legal status remained in place 
throughout admission. She was also placed on 15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted. She remained in good 
behavioral control with no acute safety issues and did not 
require any chemical/mechanical restraints.
.
2. PSYCHIATRIC:
#) Depression/PTSD
On initial psychiatric evaluation, patient reports worsening 
depressive symptoms and anxiety starting ___ months prior to 
presentation which she described as "troubling 
situations/memories" including memories of past domestic 
violence and sexual trauma which had resurfaced. She reports 
that this past trauma was remote and involved the father of her 
oldest son (now age ___. She reported being in a current 
relationship in which she felt safe. She reported hearing voices 
when alone in the house, endorsed nightmares, and has been told 
by her current partner that she was sometimes hitting herself in 
her sleep. She endorsed decreased appetite, irritability, poor 
concentration, poor energy, poor motivation, anhedonia, and 
becoming increasingly socially isolated and withdrawn. She also 
endorsed significant insomnia (sleeping ___ hours per night). 
She reported two incidents of near attempts at suicide by 
overdose, the first was 2 weeks prior to presentation when her 
kids saw her with pills but she did not take any. Another time, 
___ days prior to presentation she was about to take pills with 
intent to overdose but her partner found her and took the pills 
away from her.

In the emergency room, patient was started on Prazosin 1 mg QHS 
which she reported resulted in improvement of sleep and 
nightmares. However, several days later she reported new 
headaches which she attributed to this medication so it was 
discontinued. She reported some headaches despite Prazosin 
discontinuation, so it is possible that this was not a 
medication side effect. If patient continues to have nightmares 
as an outpatient, reinitiation of this medication should be 
considered.

In addition, patient was started on Lexapro 5 mg which was 
uptitrated to 10 mg daily and was tolerated well. Patient was 
also started on Trazodone 50 mg QHS with initial good effect on 
sleep, however, should be followed as an outpatient over time. 
Patient's outpatient Klonopin 0.5 mg QHS PRN was decreased to 
0.25 mg QHS PRN and continued downtitration/discontinuation 
should be considered as an outpatient as SSRI effects on anxiety 
are seen over time. 

Patient's Mass Health had expired and patient reported renewal 
application had been submitted at ___ shortly before admission 
to ___ so patient was referred to ___ for 
outpatient follow-up. In addition, patient was seen by ___ 
for Violence Prevention and Recovery therapist saw patient and 
plan at the time of discharge was for patient to be contacted 
shortly for intake appointment for continued trauma-focused 
therapy. 

At the time of discharge, patient reported improvement in mood, 
anxiety, appetite, motivation, and concentration. She continued 
to report some difficulty with sleep due to a combination of 
persistent anxiety and environmental factors. Throughout the 
inpatient psychiatric admission, patient denied suicidal 
ideation, citing her partner and children as her biggest 
motivators. She remained future oriented. She did report her 
employment as a source of anxiety, especially given the need to 
stay in one place for 8 hours at a time, and would benefit from 
some flexibility at work to take short break/walk to a new space 
during times of increased anxiety. Patient requested letter 
stating this which was provided to her at the time of discharge.
.
3. SUBSTANCE USE DISORDERS:
Ms. ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard.
.
4. MEDICAL
Patient was medically cleared in the ED; no acute medical issues 
prevented admission to the inpatient psychiatry unit.
.
#)S/p gastric sleeve surgery (___)- chronic abdominal pain
- Continue outpatient analgesia: Percocet ___ Q6H:PRN pain
.
#)Constipation
- Continue Senna 8.6 mg daily
- Continue bisacodyl 10 mg daily PRN
.
#)Vitamin B12 Deficiency
Patient found to have vitamin B12 deficiency (level 197) likely 
in the setting of above gastric surgery
- Continue Vitamin B12 1000 mcg daily
.
#Vitamin D Deficiency
Patient found to have vitamin D deficiency (level 14)
- Continue Vitamin D 1000 units daily
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. Her 
opportunities for group activites were somewhat limited  due to 
language barrier. Occupational therapy met with the patient 1:1 
to offer structured activites such as ___ word search 
puzzles and some coloring pages to which the patient responded 
well. She was observed in the milieu at meal times and was 
interactive and social with other ___ speaking peers.  She 
was pleasant and appropriately interacted with staff and peers.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ did not have either an outpatient psychiatrist or 
therapist while admitted on Deac 4, therefore there were no 
outside providers to be contacted.  She was referred to ___ for 
therapy upon discharge and should receive a call with 
information regarding an intake appointment. She was also given 
information regarding resources for primary care, therapy, and 
psychiatry at ___. A follow up appointment with her 
PCP was made for one week following discharge. 
.
6. INFORMED CONSENT: 
*Medication: Lexapro (escitalopram)
---Benefits: Treatment of depression/anxiety
---Adverse effects: Decreased appetite, nausea, diarrhea, 
constipation, dry mouth, insomnia, tremors, headache, dizziness, 
sexual dysfunction (decreased sexual desire, anorgasmia), 
sweating, bruising, hyponatremia/SIADH (rare, in older 
patients), seizures (rare), weight gain (unusual), sedation 
(unusual), activation of suicidal ideation (rare)
.
*Medication: Minipress (prazosin)
---Benefits: Treatment of nightmares
---Adverse effects: Dizziness, lightheadedness, headache, 
fatigue, blurred vision, nausea, orthostatic hypotension, 
syncope with sudden loss of consciousness
.
*Medication: Trazodone
---Benefits: Treatment of insomnia
---Adverse effects: Nausea, dry mouth, constipation, dyspepsia, 
increased appetite, headache, lightheadedness, sedation 
(common), insomnia, agitation, confusion, memory impairment, 
paresthesia, lack of energy, cough, postural hypotension, weight 
gain (unusual), seizures (rare), priapism (rare), liver failure 
requiring transplant and/or fatal (rare)
.
Ms. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. She appeared to appreciate the information conveyed 
in the consent process by asking appropriate questions, which 
were answered by the treatment team, and expressing 
understanding of the potential risks and benefits (see above).  
Prior to starting treatment, the team also discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment.  Ms. ___ understood the above and 
consented to begin the medication.
.
7. RISK ASSESSMENT
On presentation, Ms. ___ was evaluated and felt to be at an 
increased risk of harm to herself.  Her static risk factors 
noted at that time included chronic mental illness, recent 
discharge from an inpatient psychiatric unit, history of 
abuse/trauma, limited social supports, homosexual sexual 
orientation, and chronic pain.  The modifiable risk factors 
identified were as suicidal ideation with intent/plan, poorly 
controlled mental illness, no established outpatient providers, 
social withdrawal, hopelessness, severe anxiety, insomnia, 
feeling trapped, decreased self-esteem, psychic pain/turmoil, 
limited coping skills.  These modifiable risk factors were 
addressed with acute stabilization in a safe environment on a 
locked inpatient unit, psychopharmacologic adjustments, 
psychotherapeutic interventions (OT groups, SW groups, 
individual therapy meetings with psychiatrists), and presence on 
a social milieu environment. She is being discharged with many 
protective factors, including female gender, age, children in 
the home, sense of responsibility to family, employment, 
help-seeking behavior, no prior suicide attempts/self-injurious 
behavior, no chronic substance use, no access to lethal weapons, 
reality-testing ability. Overall, based on the totality of our 
assessment at this time, Ms. ___ is not at an acutely 
elevated risk of harm to self nor danger to others. 
.
Our prognosis of this patient is good.
 
Medications on Admission:
 
Discharge Disposition:
Home
 
Facility:
___
 
Discharge Diagnosis:
Trastorno de estrés postraumático
Trastorno depresivo mayor

===================================================

Post-Traumatic Stress Disorder
Major Depressive Disorder

 
Discharge Condition:
VS: T 98.0, BP 120/71, HR 63, RR 20, O2 97% RA

Station/Gait: Normal gait and station
Tone and strength: Moves all 4 extremities, no deficiencies 
noted
on gross exam

Appearance: overweight, adequately groomed, tired-appearing
woman, appears stated age, wearing street clothes
Behavior: cooperative, some PMR
Speech: normal rate/volume/tone
Mood: 'more relaxed' 
Affect: brighter, more reactive
Thought Process: linear, goal-directed, no LoA
Thought Content: no SI/HI/AVH
Insight/Judgment: fair/fair

Cognition:
Attention: Attentive to interview
Orientation: Awake, alert, and oriented x 3
Memory: Short and long term memory grossly intact
Fund of knowledge: Average, not formally tested
Language: fluent ___

 
Discharge Instructions:
-Por favor, siga con todas las citas para pacientes ambulatorios 
indicados -- tomar este papeleo de descarga a sus citas. 
-Una duración limitada ___ se ___, por 
favor continúe todos ___ según las instrucciones 
hasta ___ dice para detener o cambiar. 
-Evitar abusar del alcohol y ___ droga, ___ sea medicamentos o 
drogas ilegales, como ___ más empeoran sus enfermedades 
médicas y psiquiátricas. 
-Póngase en contacto con el psiquiatra del ambulatorio u otros 
proveedores si tiene ___. 
-Por favor, llame al 911 o ___ de emergencias más 
cercana si se siente inseguro de ___ y no 
inmediatamente llegar a sus proveedores de atención médica. 

Fue un placer ___ con ___ 
de salud. 

===================================================

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___